US07060822B1
3-(4-Carbamoylphenylethyl)-2-pyrazolin-5-one
A mixture of 3-(4-methoxycarbonylphenylethyl)-2-pyrazolin-5-one (7.7 mmol) in ammonium hydroxide 25% (30 ml), was stirred at room temperature for 12 hours. The solvent was concentrated in vacuo and the solid product formed was filtered and dried.

reactant | 3-(4-methoxycarbonylphenylethyl)-2-pyrazolin-5-one | 7.7 mmol | COC(=O)C1=CC=C(C=C1)CCC1=NNC(C1)=O | C13H14N2O3
reactant | ammonium hydroxide | 30 ml | [OH-].[NH4+]
product | 3-(4-Carbamoylphenylethyl)-2-pyrazolin-5-one | C(N)(=O)C1=CC=C(C=C1)CCC1=NNC(C1)=O | C12H13N3O2
